US06921763B2
A mixture of 2-(4-bromoanilino)-1,3-benzoxazole-5-carbonitrile (1.8 g, 0.0058 mol), diboron pinacol ester (1.8 g, 0.007 mol), [1.1′-bis(diphenylphosphino)ferrocene]-dichloropalladium (II) complex with dichloromethane (1:1) (0.47 g, 0.00058 mol) and potassium acetate (1.7 g, 0.0174 mol) in N,N-dimethylformamide (50 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. The residue was purified by flash column chromatography on silica using 0%-40% ethyl acetate/n-heptane as a mobile phase to give 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)anilino]-1,3-benzoxazole-5-carbonitrile (0.80 g, 0.0022 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-95% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 16.9 min. MS: MH+: 362

reactant | 2-(4-bromoanilino)-1,3-benzoxazole-5-carbonitrile | 0.0058 mol, 1.8 g | BrC1=CC=C(NC=2OC3=C(N2)C=C(C=C3)C#N)C=C1 | C14H8BrN3O
reactant | diboron pinacol ester | 0.007 mol, 1.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00058 mol, 0.47 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.0174 mol, 1.7 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)anilino]-1,3-benzoxazole-5-carbonitrile | 0.0022 mol, 0.80 g | CC1(OB(OC1(C)C)C1=CC=C(NC=2OC3=C(N2)C=C(C=C3)C#N)C=C1)C | C20H20BN3O3
